US08486902B2
Step 4. (R)-3-cyclopentyl-3-[4-(2-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanamide
4 M of HBr in acetic acid (2 mL, 8 mmol) was added to 4-[1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl]-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-5-yl acetate (0.050 g, 0.13 mmol) and the reaction was stirred for 1 h. Volatiles were removed in vacuo. The residue was reconstituted and preparative HPLC-MS (eluting with a gradient of MeCN/H2O containing 0.15% NH4OH) was used to afford purified product (12 mg, 26%). 1H NMR (500 MHz, d6-DMSO): δ 9.20 (s, 1H), 8.69 (s, 1H), 7.34 (s, 1H), 6.75 (s, 1H), 4.49 (dt, 1H), 3.89 (s, 2H), 2.80 (dd, 1H), 2.64 (dd, 1H), 2.36-2.26 (m, 1H), 1.83-1.74 (m, 1H), 1.63-1.36 (m, 4H), 1.32-1.20 (m, 2H), 1.15-1.05 (m, 1H); LCMS (M+H)+: 357.0.

reactant | HBr | 4 M | Br | BrH
reactant | acetic acid | 8 mmol, 2 mL | C(C)(=O)O | C2H4O2
reactant | 4-[1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl]-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-5-yl acetate | 0.13 mmol, 0.050 g | C(C)(=O)OC1=CNC=2N=C(N=C(C21)C=2C=NN(C2)C(CC#N)C2CCCC2)OC | C20H22N6O3
product | (R)-3-cyclopentyl-3-[4-(2-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanamide | C1(CCCC1)[C@@H](CC(=O)N)N1N=CC(=C1)C=1C2=C(N=C(N1)O)NCC2=O | C17H20N6O3
